US08703810B2
To a solution of 3,5-difluoro-benzoic acid (6.38 g, 40.3 mmol) in DMF (10 mL), NaOMe (6.48 g, 121 mmol) was added at room temperature. The mixture was stirred at 120° C. for 12 h, cooled to room temperature and filtered. The solid obtained was dissolved in H2O and pH was adjusted to 3-4 with 4M aqueous HCl solution. The mixture was filtered again and the white solid was washed with water (3×10 mL) to give 5.1 g of 3-fluoro-5-methoxybenzoic acid. 1H NMR (CDCl3): δ 7.37-7.43 (m, 2H), 6.83-6.88 (m, 1H), 3.86 (s, 3H).

reactant | 3,5-difluoro-benzoic acid | 40.3 mmol, 6.38 g | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | NaOMe | 121 mmol, 6.48 g | C[O-].[Na+]
reactant | HCl | 4M | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-fluoro-5-methoxybenzoic acid | 5.1 g | FC=1C=C(C(=O)O)C=C(C1)OC | C8H7FO3
